US05739338
N-(3-Bromophenyl)-3,3-dimethylacrylamide
To a suspension of Nail (4.15 g, 173 mmol, 60% in oil) in 50 ml of THF was cannulated a solution of 20.322 g (118 mmol) of 3-bromo-aniline in 50 ml of THF. The resulting mixture was stirred at 0° C. for 45 min and warmed to room temperature over a period of 15 min. To this solution was added through cannulation 13.123 g (173 mmol) of 3,3-dimethylacryloyl chloride. The mixture was stirred at room temperature for 24 h and thereafter slowly poured into ice water. The resulting mixture was extracted with methylene chloride (twice), dried over MgSO4 and concentrated to yield a solid. The solid was purified by recrystallization in hexane/EtOAc (2:1) to give the title compound as a light brown solid. PNMR (CDCl3) d 7.83 (1H, b), 7.30 (4H, m), 5.68 (1H, s), 2.22 (3H, s), 1.90 (3H, s).

reactant | 3-bromo-aniline | 118 mmol, 20.322 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3,3-dimethylacryloyl chloride | CC(=CC(=O)Cl)C | C5H7ClO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(3-Bromophenyl)-3,3-dimethylacrylamide | BrC=1C=C(C=CC1)NC(C=C(C)C)=O | C11H12BrNO
